.options savecurrents
.include bc547.model

vBE base 0 dc 0.65v

vCE col 0 dc 5

Q1 col base 0 BC547

.dc vCE  0 5 .01
.end

.control
run
dc
plot -vCE#branch vs v(col)
.endc