I-V Characteristics of CD4007
*Including the CD4007 model file
.include cd4007.txt

VDD vddnet 0 dc 5V
RD vddnet drain 50k
M1 drain gate 0 0 MbreakND
VI gate 0 dc 0v
*DC analysis to sweep VI from 0 to 5V
.dc VI 0 5 0.01
.end

.control
run
plot  v(drain)
hardcopy vo.ps v(drain)
.endc
